US08242115B2
A solution of 5-amino-2-(tert-butyl-dimethyl-silanyloxy)benzoic acid methyl ester (4.5 g, 16 mmol), 2-chloroethyl ether (1.9 mL, 16.2 mmol), and diisopropylethylamine (5.6 mL, 32.1 mmol) in DMF (50 mL) was stirred at 100° C. for 48 h. The reaction mixture was poured into 10% aqueous NaHCO3 (100 mL) and extracted with ether (200 mL). The organic layer was washed with water (5×100 mL) and brine (100 mL), dried over magnesium sulfate (MgSO4), and concentrated to a red syrup. The residue was purified by flash chromatography (silica gel, 4×15 cm, eluted with 9/1 hexanes/EtOAc) to yield 2-(tert-butyl-dimethyl-silanyloxy)-5-morpholin-4-yl-benzoic acid methyl ester (1.0 g, 18%).

reactant | 5-amino-2-(tert-butyl-dimethyl-silanyloxy)benzoic acid methyl ester | 16 mmol, 4.5 g | COC(C1=C(C=CC(=C1)N)O[Si](C)(C)C(C)(C)C)=O | C14H23NO3Si
reactant | 2-chloroethyl ether | 16.2 mmol, 1.9 mL | ClCCOCCCl | C4H8Cl2O
reactant | diisopropylethylamine | 32.1 mmol, 5.6 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 2-(tert-butyl-dimethyl-silanyloxy)-5-morpholin-4-yl-benzoic acid methyl ester | 1.0 g, 18% | COC(C1=C(C=CC(=C1)N1CCOCC1)O[Si](C)(C)C(C)(C)C)=O | C18H29NO4Si
